US07232819B2
Step 2: 1-benzyl 4-tert-butyl 2-[(Z)-amino({[(1E)-3-methoxy-1-(methoxycarbonyl)-3-oxoprop-1-enyl]oxy}imino)methyl]-2-methylpiperazine-1,4-dicarboxylate (C-42)
A solution of 1-benzyl 4-tert-butyl 2-cyano-2-methylpiperazine-1,4-dicarboxylate (C-41) in EtOH was added to a solution of Et3N (3.2 eq) and NH2OH HCl (3 eq) in EtOH. The mixture was stirred 2 hr at 40° C. After evaporation of the solvent, the residue was diluted with AcOEt, washed with water, dried over Na2SO4, filtered and concentrated. The residue was further dissolved in chloroform and dimethylacetylenedicarboxylate (1.5 eq) added to the stirred solution. Reaction was refluxed over night. The mixture was evaporated and the residue was purified by flash chromatography on silica gel (petroleum ether/AcOEt, 65:35) affording (C-42).

reactant | 1-benzyl 4-tert-butyl 2-cyano-2-methylpiperazine-1,4-dicarboxylate | C(#N)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C | C19H25N3O4
reactant | Et3N | 3.2 eq | CCN(CC)CC | C6H15N
reactant | NH2OH HCl | 3 eq | NO.Cl
reactant | dimethylacetylenedicarboxylate | 1.5 eq | COC(=O)C#CC(=O)OC | C6H6O4
solvent | EtOH | CCO | C2H6O
product | 1-benzyl 4-tert-butyl 2-[(Z)-amino({[(1E)-3-methoxy-1-(methoxycarbonyl)-3-oxoprop-1-enyl]oxy}imino)methyl]-2-methylpiperazine-1,4-dicarboxylate | N\C(\C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C)=N/O\C(=C\C(=O)OC)\C(=O)OC | C25H34N4O9
